US06255305B1
1,11′-Carbonyldiimidazole-(0.98 g, 6.1 mmol) was added to a stirred mixture of 3-furoic acid (0.68 g, 6.1 mmol) in THF (30 ml). The mixture was stirred for 0.75 h before adding the preceding hydrazine (1.0 g, 5.1 mmol). After 4 h at room temperature, the solvent was evaporated in vacuo, water added and the mixture stirred for 0.5 h. The resultant solid was collected by filtration, washed with water and hexane and dried in vacuo to give the ketohydrazine. A mixture of the ketohydrazine (0.80 g) and triethylamine hydrochloride (0.10 g, 0.73 mmol) in xylene (10 ml) was heated at reflux overnight. The solution was cooled to room temperature and the solvent removed in vacuo. The residue was chromatographed on silica gel, eluting with 5% methanol/dichloromethane, to give the title-phthalazine (0.21 g), 1H NMR (250 MHz, CDCl3) δ1.90-2.02 (4 H, m, 2 of CH2), 2.74-2.80 (2 H, m, CH2), 3.16-3.24 (2 H, m, CH2), 7.28 (1 H, m, Ar—H), 7.58 (1 H, t, J=1.7 Hz, Ar—H), 8.53 (1 H, m, Ar—H).

reactant | ketohydrazine | 0.80 g | O=NN | H2N2O
reactant | triethylamine hydrochloride | 0.73 mmol, 0.10 g | Cl.C(C)N(CC)CC
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | phthalazine | 0.21 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
